** Generated for: hspiceD
** Generated on: Mar  8 09:37:10 2019
** Design library name: SymmetricalCMOSOTA
** Design cell name: symmetricalCMOSOTA
** Design view name: schematic
.GLOBAL vdd! gnd!

.TEMP 25.0
.OPTION
+    ARTIST=2
+    INGOLD=2
+    PARHIER=LOCAL
+    PSF=2

** Library name: SymmetricalCMOSOTA
** Cell name: symmetricalCMOSOTA
** View name: schematic
m7 net20 net20 vdd! vdd! pmos  W=1e-6 L=1e-6
m6 net35 net35 net032 net032 pmos  W=32e-6 L=1e-6
m5 net032 net032 vdd! vdd! pmos  W=32e-6 L=1e-6
m4 net48 inn net23 net23 pmos  W=44e-6 L=1e-6
m3 out net35 net47 net47 pmos  W=32e-6 L=1e-6
m2 net47 net032 vdd! vdd! pmos  W=32e-6 L=1e-6
m1 net45 inp net23 net23 pmos  W=44e-6 L=1e-6
m0 net23 net20 vdd! vdd! pmos  W=1e-6 L=1e-6
m16 net45 net45 gnd! gnd! nmos  W=3e-6 L=10e-6
m15 net35 net35 net45 net45 nmos W=3e-6 L=10e-6
m14 out net35 net48 net48 nmos  W=3e-6 L=10e-6
m13 net48 net45 gnd! gnd! nmos  W=3e-6 L=10e-6
m12 net38 ibias gnd! gnd! nmos  W=1e-6 L=1e-6
m11 net20 ibias gnd! gnd! nmos  W=1e-6 L=1e-6
m10 ibias ibias gnd! gnd! nmos W=1e-6 L=1e-6
m9 net032 inp net38 net38 nmos  W=4e-6 L=1e-6
m8 net47 inn net38 net38 nmos  W=4e-6 L=1e-6
cl out gnd!
.END
